US08557809B2
Step D: Preparation of (8-bromo-6-fluoroquinolin-2-yl)methanol
Ethyl 8-bromo-6-fluoroquinoline-2-carboxylate (3.201 g, 10.7 mmol) was weighed into a flask, and dissolved in 100 mL of DCM. The reaction was cooled to −78° C., followed by drop-wise addition of DIBAL-H (21.48 mL, 32.22 mmol) over 10 minutes. The reaction was then allowed to stir and warm to ambient temperature over 2 hours at which time the starting material had been consumed. The reaction was quenched with 10 mL MeOH, followed by addition of 100 mL of Rochelle's Salts, and stirred overnight to remove the emulsion. The reaction was then partitioned with ethyl acetate. The combined organic fractions were concentrated in vacuo. The crude semi solid was purified by flash column chromatography (eluting with a 20-50% ethyl acetate/hexanes gradient), affording the desired product as an orange-yellow semi solid (2.27 g, 42% yield) MS APCI (+) m/z 256.1 and 258 (M+1 of each Br isotope) detected.

reactant | Ethyl 8-bromo-6-fluoroquinoline-2-carboxylate | 10.7 mmol, 3.201 g | BrC=1C=C(C=C2C=CC(=NC12)C(=O)OCC)F | C12H9BrFNO2
reactant | DIBAL-H | 32.22 mmol, 21.48 mL | CC(C)C[AlH]CC(C)C
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (8-bromo-6-fluoroquinolin-2-yl)methanol | BrC=1C=C(C=C2C=CC(=NC12)CO)F | C10H7BrFNO
